US05700801
a) N-[1-Benzyl-4-piperidinyl]-N-(2-phenylethyl)-β-alanine methyl ester dihydrochloride
Prepared from N-[1-benzyl-4-piperidinyl]-β-alanine methyl ester dihydrochloride, phenylacetaldehyde and sodium cyanoborohydride.

reactant | N-[1-benzyl-4-piperidinyl]-β-alanine methyl ester dihydrochloride | Cl.Cl.COC(CCNC1CCN(CC1)CC1=CC=CC=C1)=O
reactant | phenylacetaldehyde | C1(=CC=CC=C1)CC=O | C8H8O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | N-[1-Benzyl-4-piperidinyl]-N-(2-phenylethyl)-β-alanine methyl ester dihydrochloride | Cl.Cl.COC(CCN(CCC1=CC=CC=C1)C1CCN(CC1)CC1=CC=CC=C1)=O | InChI=1S/C24H32N2O2.2ClH/c1-28-24(27)15-19-26(18-12-21-8-4-2-5-9-21)23-13-16-25(17-14-23)20-22-10-6-3-7-11-22;;/h2-11,23H,12-20H2,1H3;2*1H
